US07842696B2
Na2CO3 (183 mg, 1.73 mmol) was added to a stirred solution of 6-chloro-pyridazine-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide (263 mg, 0.57 mmol) in DMF (6 mL). PdCl2 (dppf) (80.4 mg, 0.11 mmol) and phenyl boronic acid (89.9 mg, 0.69 mmol) were then added and the reaction mixture was heated at 80° C. for 2 hrs. The reaction mixture was diluted with water and the product was extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over sodium sulphate and concentrated to get the residue. The residue obtained was purified by preparative HPLC afford 34 mg (11% yield) of 6-Phenyl-pyridazine-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 93.2%. 1H NMR (DMSO-d6): δ 9.3 (t, 1H), 8.5 (d, 1H), 8.3 (t, 3H), 8.0-7.5 (m, 7H), 4.4 (d, 2H), 3.8 (d, 4H), 3.46 (bs, 2H), 3.2 (d, 2H).

reactant | Na2CO3 | 1.73 mmol, 183 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 6-chloro-pyridazine-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 0.57 mmol, 263 mg | O=C(CNC(=O)C=1N=NC(=CC1)Cl)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C19H17ClF3N5O3
reactant | phenyl boronic acid | 0.69 mmol, 89.9 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | PdCl2 | 0.11 mmol, 80.4 mg | Cl[Pd]Cl
product | 6-Phenyl-pyridazine-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 34 mg, 11% yield | O=C(CNC(=O)C=1N=NC(=CC1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H22F3N5O3
